US07514432B2
2-Methoxymethoxymethyl-5-[5-(7-trifluoromethyl-quinolin-4-ylsulfanyl)-pentyloxy]-4H-pyran-4-one (EHT 2168)
2-Hydroxymethyl-5-[5-(7-trifluoromethyl-quinolin-4-ylsulfanyl)-pentyloxy]-4H-pyran-4-one EHT 5909 (0.10 g, 0.227 mmol) was charged in a 25 mL three necked round bottom flask equipped with a magnetic stirrer and under a nitrogen atmosphere. THF (6 mL) and NaH (60% dispersion in oil, 10 mg, 0.25 mmol) were added at room temperature. After the reaction mixture was stirred for 5 min, methyl choromethyl ether (18.1 μl, 0.24 mmol, 1.05 eq.) was added via syringe and the reaction mixture was stirred for 2 h 30 at room temperature. The reaction mixture was poured in H2O (60 mL) and extracted with EtOAc (3×20 mL). The organic layer was dried over MgSO4, filtered and evaporated in vacuo. The crude product was purified by chromatography on silica using as eluent MeOH:CH2Cl2=2:98. After evaporation and drying to the vacuum pump a white pale yellow solid EHT 2168 was obtained (74 mg, 67% yield).

reactant | 2-Hydroxymethyl-5-[5-(7-trifluoromethyl-quinolin-4-ylsulfanyl)-pentyloxy]-4H-pyran-4-one | OCC=1OC=C(C(C1)=O)OCCCCCSC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C21H20F3NO4S
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | NaH | 0.25 mmol, 10 mg | [H-].[Na+]
reactant | methyl choromethyl ether | 0.24 mmol, 18.1 μl, 1.05 eq. | ClCOC | C2H5ClO
solvent | H2O | 60 mL | O | H2O
product | 2-Methoxymethoxymethyl-5-[5-(7-trifluoromethyl-quinolin-4-ylsulfanyl)-pentyloxy]-4H-pyran-4-one | 67% yield | COCOCC=1OC=C(C(C1)=O)OCCCCCSC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C23H24F3NO5S
